US07541131B2
Subsequently, 2 g of thianthrene-S-oxide was dissolved in 10 ml of toluene and ice-cooled, and 2.8 ml of trifluoroacetic anhydride and 1.2 ml of nonafluorobutanesulfonic acid were added thereto, followed by stirring for 1 hour. Subsequently, diisopropyl ether was added thereto and after removing the supernatant, the residue was purified through a silica gel column (chloroform/methanol=19/1) to obtain 4.4 g of 5-(p-tolyl)thianthrenium nonafluorobutanesulfonate. 1H-NMR (400 MHz, CDCl3): δ 2.34 (s, 3H), 7.08 (d, 2H), 7.22 (d, 2H), 7.78 (m, 6H), 8.65 (d, 2H).

reactant | thianthrene-S-oxide | 2 g | C1=CC=CC=2S(C3=CC=CC=C3SC12)=O | C12H8OS2
reactant | trifluoroacetic anhydride | 2.8 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | nonafluorobutanesulfonic acid | 1.2 ml | FC(C(C(C(S(=O)(=O)O)(F)F)(F)F)(F)F)(F)F | C4HF9O3S
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(p-tolyl)thianthrenium nonafluorobutanesulfonate | 4.4 g | FC(C(C(C(S(=O)(=O)[O-])(F)F)(F)F)(F)F)(F)F.C1(=CC=C(C=C1)[S+]1C=2C=CC=CC2SC2=CC=CC=C12)C | InChI=1S/C19H15S2.C4HF9O3S/c1-14-10-12-15(13-11-14)21-18-8-4-2-6-16(18)20-17-7-3-5-9-19(17)21;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h2-13H,1H3;(H,14,15,16)/q+1;/p-1
